US07951810B2
Step c: (2R,3S,4R,5R)-2-(6-Bromo-9H-purin-9-yl)-5-{[(triisopropylsilyl)oxy]methyl}-tetrahydrofuran-3,4-diyl diacetate
(2R,3S,4R,5R)-2-(6Amino-9H-purin-9-yl)-5-{[(triisopropylsilyl)oxy]methyl}-tetrahydrofuran-3,4-diyl diacetate (0.605 g, 1.19 mmol) was dissolved in dibromomethane (24 mL). Trimethylsilyl bromide (0.17 mL, 1.35 mmol) was added dropwise followed by tert-butylnitrite (0.97 mL, 8.12 mmol). The orange solution was stirred for 2.5 hours then slowly poured into a 1:1 mixture of saturated sodium bicarbonate and dichloromethane and extracted. The pale yellow organic layer was washed with water and brine, dried (Na2SO4), filtered and concentrated. The yellow solid was purified by flash chromatography eluting with 25% ethyl acetate/hexanes to give the title compound as a yellow solid (0.402 g, 52%).

reactant | (2R,3S,4R,5R)-2-(6Amino-9H-purin-9-yl)-5-{[(triisopropylsilyl)oxy]methyl}-tetrahydrofuran-3,4-diyl diacetate | 1.19 mmol, 0.605 g | C(C)(=O)O[C@@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)CO[Si](C(C)C)(C(C)C)C(C)C)N1C2=NC=NC(=C2N=C1)N | C23H37N5O6Si
reactant | Trimethylsilyl bromide | 1.35 mmol, 0.17 mL | C[Si](C)(C)Br | C3H9BrSi
reactant | tert-butylnitrite | 8.12 mmol, 0.97 mL | C(C)(C)(C)ON=O | C4H9NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dibromomethane | 24 mL | BrCBr | CH2Br2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2R,3S,4R,5R)-2-(6-Bromo-9H-purin-9-yl)-5-{[(triisopropylsilyl)oxy]methyl}-tetrahydrofuran-3,4-diyl diacetate | 0.402 g, 52% | C(C)(=O)O[C@@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)CO[Si](C(C)C)(C(C)C)C(C)C)N1C2=NC=NC(=C2N=C1)Br | C23H35BrN4O6Si
